US08530648B2
a) (1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)methanol
To a stirred solution of 1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde [956716-93-1] (2.0 g, 6.66 mmol) in methanol (20 mL) NaBH4 (0.756 g, 20 mmol) was added in portions at 0° C. Then the mixture was allowed to warm to rt and stirred for 18 h. Methanol was evaporated under reduced pressure and water was added to the stirred residue. The resulting precipitate was filtered off and dried under vacuum to yield the title compound as a white solid (1.6 g, 80%). [1H NMR (400 MHz, CHLOROFORM-d) ♀ ppm 8.45 (dd, J=4.8, 3.2 Hz, 1H), 8.07 (d, J=8.4 Hz, 2H), 7.96 (dd, J=8.0, 1.6 Hz, 1H), 7.70 (s, 1H), 7.26 (d, J=8.4 Hz, 2H), 7.20 (dd, J=7.6, 4.8 Hz, 1H), 4.83 (d, J=5.2 Hz, 2H), 2.37 (s, 3H), 1.73 (t, J=5.2 Hz, 1H); LCMS RtE=0.85, [M+H]+=302.8].

reactant | 1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carbaldehyde | 6.66 mmol, 2.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C=2C1=NC=CC2)C=O | C15H12N2O3S
reactant | methanol | 20 mmol, 20 mL, 0.756 g | CO | CH4O
product | (1-tosyl-1H-pyrrolo[2,3-b]pyridin-3-yl)methanol | 1.6 g, 80% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C=2C1=NC=CC2)CO | C15H14N2O3S
